US06627629B2
Part B: Preparation of (3R,4R)-4-[3-(5-acetyl-4-methyl-thiazol-2-yl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3R,4R)-4-Amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (73 mg, 0.174 mmol) was dissolved in acetonitrile (2 mL) and triethylamine (25 μL, 0.179 mmol) and 4-acetyl-3-methyl-2-(phenoxycarbonylamino)-thiazole (58 mg, 0.21 mmol) were added. The reaction mixture was stirred for 64 hours while heating to 60° C. The reaction mixture was cooled, diluted with ethyl acetate, washed twice with water and once with brine. The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (60 mg, 57%). 1H NMR (300 MHz, CDCl3), δ: 7.14 (m, 1H), 6.98 (m, 2H), 6.88 (t, 1H, J=10), 4.39 (d, 1H, J=13), 4.09 (bs, 2H), 3.94 (bm, 2H), 3.12 (t, 1H, J=11), 2.74 (bm, 5H), 2.62 (m, 3H), 2.52 (m, 1H), 2.47 (m, 3H), 2.36 (m, 2H), 2.03 (bm, 3H), 1.74 (bm, 2H), 1.48 (2s, 9H), 1.40 (m, 1H), 1.22 (m, 1H). HRMS (ESI), C30H41FN5O5S m+/z: calc.=602.2813, found=602.2811.

reactant | (3R,4R)-4-Amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 0.174 mmol, 73 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C23H34FN3O3
reactant | triethylamine | 0.179 mmol, 25 μL | C(C)N(CC)CC | C6H15N
reactant | 4-acetyl-3-methyl-2-(phenoxycarbonylamino)-thiazole | 0.21 mmol, 58 mg | C(C)(=O)C=1N(C(SC1)NC(=O)OC1=CC=CC=C1)C | C13H14N2O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (3R,4R)-4-[3-(5-acetyl-4-methyl-thiazol-2-yl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 60 mg, 57% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC(=O)NC=1SC(=C(N1)C)C(C)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C30H40FN5O5S
